US07238716B2
To a mixture of [4-methoxy-3-[(5-methoxy-2-phenyl-4-oxazolyl)methoxy]phenyl]methanol (0.95 g), methyl 2-(2-hydroxyphenyl)acetate (0.50 g), triphenylphosphine (0.95 g) and tetrahydrofuran (15 mL) was dropwise added a solution (40%, 1.74 g) of diethyl azodicarboxylate in toluene at room temperature, and the mixture was stirred overnight. The reaction mixture was concentrated and the residue was subjected to silica gel column chromatography to give an oil from a fraction eluted with ethyl acetate-hexane (1:3, v/v). To a mixture of the obtained oil, tetrahydrofuran (10 mL) and ethanol (10 mL) was added a 1N aqueous sodium hydroxide solution (5 mL) and the mixture was stirred overnight at room temperature. The reaction mixture was neutralized with 1N hydrochloric acid (5 mL), extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 2-[2-[4-methoxy-3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization with ethanol-hexane gave colorless plate crystals (0.52 g, 37%). melting point: 154-155° C.

reactant | [4-methoxy-3-[(5-methoxy-2-phenyl-4-oxazolyl)methoxy]phenyl]methanol | 0.95 g | COC1=C(C=C(C=C1)CO)OCC=1N=C(OC1OC)C1=CC=CC=C1 | C19H19NO5
reactant | methyl 2-(2-hydroxyphenyl)acetate | 0.50 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | triphenylphosphine | 0.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.74 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-[2-[4-methoxy-3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetic acid | COC1=C(C=C(COC2=C(C=CC=C2)CC(=O)O)C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C27H25NO6
